US06809108B1
Synthesis of 3-(2-{(3,3,3-triphenylpropanoyl)amino}acetylamino)propionic acid
1.7 Grams of ethyl 3-(2-{(3,3,3-triphenylpropanoyl)amino}acetylamino)propionate was dissolved in a mixed liquid consisting of 70 ml of tetrahydrofuran and 20 ml of methanol. To the solution 5.0 ml of 4N aqueous sodium hydroxide solution was added at room temperature, followed by an hour's stirring at the same temperature. The reaction liquid was distilled off under reduced pressure, and the residue was rendered acidic by addition of 1N hydrochloric acid, extracted with ethyl acetate, washed with saturated saline solution and dried over anhydrous magnesium sulfate. Upon distilling the solvent off under reduced pressure, 1.10 g of the title compound was obtained.

reactant | ethyl 3-(2-{(3,3,3-triphenylpropanoyl)amino}acetylamino)propionate | C1(=CC=CC=C1)C(CC(=O)NCC(=O)NCCC(=O)OCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H30N2O4
reactant | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 4N, 5.0 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 3-(2-{(3,3,3-triphenylpropanoyl)amino}acetylamino)propionic acid | 1.10 g | C1(=CC=CC=C1)C(CC(=O)NCC(=O)NCCC(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H26N2O4
